US08222248B2
A solution of 3,5-dimethylaniline (7.26 g, 60 mmol) in CH2Cl2 (200 mL) was cooled in an water bath then trifluoroacetic anhydride (12.51 mL, 90 mmol) was added slowly. After the addition, the solution was stirred at 25° C. for 15 min then bromine (2.93 mL, 57 mmol) was added slowly to the solution while maintaining the ambient temperature of the water bath. The solution was stirred at 25° C. for 3 h then was quenched with 10% Na2S2O3. The aqueous layer was extracted with CH2Cl2 and the combined organic layers were washed with water, brine, dried with MgSO4 and filtered. The solvent was removed under reduced pressure to give an orange solid which was recrystallized from hexanes/Et2O (1:1) to give N-(4-bromo-3,5-dimethylphenyl)-2,2,2-trifluoroacetamide as a white solid.

reactant | 3,5-dimethylaniline | 60 mmol, 7.26 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | trifluoroacetic anhydride | 90 mmol, 12.51 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | bromine | 57 mmol, 2.93 mL | BrBr | Br2
reactant | water | O | H2O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(4-bromo-3,5-dimethylphenyl)-2,2,2-trifluoroacetamide | BrC1=C(C=C(C=C1C)NC(C(F)(F)F)=O)C | C10H9BrF3NO
